US05021581
A solution of 3-chlorophenol (9.26 g) in DMF (25 ml) was added dropwise to a stirred suspension of sodium hydride (1.44 g) in DMF (50 ml) (effervescence) and the resulting mixture was stirred at room temperature for 1 hour. A solution of 2-(bromomethyl)benzonitrile (11.76 g) in DMF (25 ml) was then added to the stirred reaction mixture and after a further hour at room temperature the mixture was poured into water and extracted with ether. The extracts were washed successively with water, dilute aqueous sodium hydroxide and brine, then dried and concentrated to give crude 2-(3-chlorophenoxymethyl)benzonitrile (13.95 g) as an orange-brown oil which crystallised on standing. An analytical sample, recrystallised from petrol, had m.p. 56° C.

reactant | 3-chlorophenol | 9.26 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | sodium hydride | 1.44 g | [H-].[Na+]
reactant | 2-(bromomethyl)benzonitrile | 11.76 g | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
reactant | water | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-(3-chlorophenoxymethyl)benzonitrile | 13.95 g | ClC=1C=C(OCC2=C(C#N)C=CC=C2)C=CC1 | C14H10ClNO
